US07713996B2
Bromo-tris-pyrrolidino-phosphonium hexafluorophosphate (0.874 g, 1.88 mmol, 1.1 equiv.) and diisopropyl ethyl amine (0.46 mL, 3.58 mmol, 2.1 equiv.) were added to a solution of 4-methoxy-2,3-dihydro-indole-1,6-dicarboxylic acid 1-tert-butyl ester (0.500 g, 1.7 mmol, 1 equiv.) in tetrahydrofuran (10 mL) and the mixture was shaken for 5 minutes at room temperature. 4-Amino-2-fluorobenzoic acid ethyl ester (3.433 g 1.88 mmol, 1.1 equiv.) was added and the mixture shaken at room temperature for 16 hours. The solvent was removed under vacuum and the residue dissolved in trifluoroacetic acid (10 mL) and shaken for 1 hour at room temperature. The solvent was removed under vacuum and the residue was purified by column chromatography (SiO2, 1:1 Hept/EtOAc to EtOAc). The fractions were combined to afford crude 2-fluoro-4-[(4-methoxy-2,3-dihydro-1H-indole-6-carbonyl)-amino]-benzoic acid ethyl ester, 0.476 g (27% yield), this material was taken onto the next step without further purification. LC @215 nm; Rt 1.17: 46%, m/z (ES+): 359 (M+H+.).

reactant | Bromo-tris-pyrrolidino-phosphonium hexafluorophosphate | 1.88 mmol, 0.874 g, 1.1 equiv. | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | diisopropyl ethyl amine | 3.58 mmol, 0.46 mL, 2.1 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-methoxy-2,3-dihydro-indole-1,6-dicarboxylic acid 1-tert-butyl ester | 1.7 mmol, 0.500 g, 1 equiv. | C(C)(C)(C)OC(=O)N1CCC2=C(C=C(C=C12)C(=O)O)OC | C15H19NO5
reactant | 4-Amino-2-fluorobenzoic acid ethyl ester | 1.88 mmol, 3.433 g, 1.1 equiv. | C(C)OC(C1=C(C=C(C=C1)N)F)=O | C9H10FNO2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-fluoro-4-[(4-methoxy-2,3-dihydro-1H-indole-6-carbonyl)-amino]-benzoic acid ethyl ester | 27% yield | C(C)OC(C1=C(C=C(C=C1)NC(=O)C1=CC(=C2CCNC2=C1)OC)F)=O | C19H19FN2O4
